**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Power Inductor (High Voltage)
* Matchcode:              WE-PD2 HV 
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-06-10
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 5848_768774268_680u 1 2
Rp 1 2 1047000
Cp 1 2 3.911p
Rs 1 N3 4.8
L1 N3 2 684.532u
.ends 5848_768774268_680u
*******
.subckt 1054_76877630_1m 1 2
Rp 1 2 230366
Cp 1 2 4.954p
Rs 1 N3 2.6
L1 N3 2 1000u
.ends 1054_76877630_1m
*******
.subckt 1054_768776322_2.2m 1 2
Rp 1 2 275669.169519
Cp 1 2 5.33990012326p
Rs 1 N3 5.3
L1 N3 2 2200u
.ends 1054_768776322_2.2m
*******
.subckt 7850_768775256_560u 1 2
Rp 1 2 135746.824
Cp 1 2 6.3060499p
Rs 1 N3 1.77
L1 N3 2 560u
.ends 7850_768775256_560u
*******
.subckt 7850_768775268_680u 1 2
Rp 1 2 178434.66
Cp 1 2 4.9616929p
Rs 1 N3 2.04
L1 N3 2 680u
.ends 7850_768775268_680u
*******
.subckt 7850_768775282_820u 1 2
Rp 1 2 150782.94
Cp 1 2 4.8144231p
Rs 1 N3 2.35
L1 N3 2 820u
.ends 7850_768775282_820u
*******
.subckt 7850_76877530_1000u 1 2
Rp 1 2 169624.66
Cp 1 2 4.74802404p
Rs 1 N3 2.78
L1 N3 2 1000u
.ends 7850_76877530_1000u
*******
.subckt 7850_768775312_1200u 1 2
Rp 1 2 228952.86
Cp 1 2 5.1586188p
Rs 1 N3 3.77
L1 N3 2 1200u
.ends 7850_768775312_1200u
*******
.subckt 7850_768775322_2200u 1 2
Rp 1 2 225324.09
Cp 1 2 5.2462005p
Rs 1 N3 6
L1 N3 2 2200u
.ends 7850_768775322_2200u
*******
.subckt 1054_768776312_1200u 1 2
Rp 1 2 165813.51
Cp 1 2 5.4492682p
Rs 1 N3 2.48
L1 N3 2 1200u
.ends 1054_768776312_1200u
*******
.subckt 1054_768776318_1.8m 1 2
Rp 1 2 265.667k
Cp 1 2 4.959p
Ls 1 N0 1.61m
Rs N0 2 4.09
.ends 1054_768776318_1.8m
**************
.subckt 1054_768776347_4.7m 1 2
Rp 1 2 440.054k
Cp 1 2 4.885p
Ls 1 N0 4.166m
Rs N0 2 9.517
.ends 1054_768776347_4.7m
**************
.subckt 1054_768776368_6.8m 1 2
Rp 1 2 671.143k
Cp 1 2 4.901p
Ls 1 N0 5.959m
Rs N0 2 13.908
.ends 1054_768776368_6.8m
**************
.subckt 7850_768775315_1.5m 1 2
Rp 1 2 280.712k
Cp 1 2 4.09p
Ls 1 N0 1.375m
Rs N0 2 4.456
.ends 7850_768775315_1.5m
**************
.subckt 7850_768775318_1.8m 1 2
Rp 1 2 280.177k
Cp 1 2 4.01p
Ls 1 N0 1.677m
Rs N0 2 5.85
.ends 7850_768775318_1.8m
**************

